// Generated for: spectre
// Generated on: May 10 13:41:46 2022
// Design library name: Project_Lib1_sim
// Design cell name: trans_gate_sim
// Design view name: schematic
simulator lang=spectre
global 0
parameters r
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/l130e-rf-v171-control.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_LL12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_BPW_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_BPW_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_BJT_V141.lib.scs" section=typ_BIP
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_NVT33_v031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_NVT12_V041.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_20f_MIMCAP_V011.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_15f_MIMCAP_V021.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_MIMCAP_V121.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/mm130e_mom_v031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_RES_V152.lib.scs" section=res_typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_SP12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_DIODE_V151.mdl.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_cr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwcr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20k_rfvil_V031.lib.scs" section=typ

// Library name: Project_Lib1
// Cell name: inv_21
// View name: schematic
subckt inv_21 GND IN OUT VDD
    NM0 (OUT IN GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (OUT IN VDD VDD) p_12_hsl130e w=320.0n l=130.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
ends inv_21
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: trans_gate
// View name: schematic
subckt trans_gate CTRL GND IN OUT VDD
    PM0 (IN net15 OUT VDD) p_12_hsl130e w=160.0n l=120.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM0 (IN CTRL OUT GND) n_12_hsl130e w=160.0n l=120.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    I1 (GND CTRL net15 VDD) inv_21
ends trans_gate
// End of subcircuit definition.

// Library name: Project_Lib1_sim
// Cell name: trans_gate_sim
// View name: schematic
I0 (CTRL 0 IN OUT net2) trans_gate
V0 (net2 0) vsource dc=1.2V   type=dc
V2 (IN 0) vsource type=pulse val0=0 val1=1.2 period=100n delay=0 rise=10p \
        fall=10p width=50n
V1 (CTRL 0) vsource type=pulse val0=0 val1=1.2 period=200n delay=0 \
        rise=10p fall=10p width=100n
C0 (OUT 0) capacitor c=1f
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=200n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
